US07544703B2
4-Acetoxymethyl-2-acetylaminopyridine (Reference Compound No. 11-1)
(2-Aminopyridin-4-yl)methanol (5.0 g, 40 mmol) was suspended in pyridine (20 mL), acetic anhydride (11 mL, 120 mmol) was added thereto under ice-cooling, and the mixture was stirred for 5 hours at room temperature. Ethyl acetate (150 mL) was added to the reaction mixture, and then the mixture was washed with water (150 mL), saturated aqueous sodium hydrogen carbonate solution (150 mL) and brine (150 mL) successively. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The resulting solid was filtered off with hexane, then dried under reduced pressure at 40° C. to give 6.7 g of the title reference compound as a colorless solid. (Yield 79%)

reactant | (2-Aminopyridin-4-yl)methanol | 40 mmol, 5.0 g | NC1=NC=CC(=C1)CO | C6H8N2O
reactant | acetic anhydride | 120 mmol, 11 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | Ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | 4-Acetoxymethyl-2-acetylaminopyridine | Yield 79% | C(C)(=O)OCC1=CC(=NC=C1)NC(C)=O | C10H12N2O3
